US07932262B2
Step 3. 2-Amino-3-bromo-5-fluorobenzaldehyde
Manganese (IV) oxide (5 eq) was added to a 0.2M solution of (2-amino-3-bromo-5-fluorophenyl)methanol in dichloromethane. The suspension was stirred at ambient temperature under Argon for 12 h. The reaction mixture was filtered through celite and filter cake was washed with dichloromethane. The combined filtrate was concentrated to give brown color solid. ES/MS m/z 218/220 (MH+).

reactant | (2-amino-3-bromo-5-fluorophenyl)methanol | NC1=C(C=C(C=C1Br)F)CO | C7H7BrFNO
solvent | dichloromethane | ClCCl | CH2Cl2
catalyst | Manganese (IV) oxide | 5 eq | [O-2].[Mn+4].[O-2]
product | 2-Amino-3-bromo-5-fluorobenzaldehyde | NC1=C(C=O)C=C(C=C1Br)F | C7H5BrFNO
